US05162320
A mixture of 1,4-dichloro-2,3-diaza-anthracene (4.84 g) and dry 1-amino-3-propanol (48 ml) is heated at 130° C. for 24 hours in an autoclave. After cooling to room temperature and dilution of the reaction mixture with a solution of potassium carbonate (96 g) in water (240 ml) a crystalline solid separates which is filtered and recrystallized from aqueous ethanol to give 6.09 g of 1,4-bis[N-(3-hydroxypropyl)amino]-2,3-diaza-anthracene, m.p. 225°-228° C.

reactant | 1,4-dichloro-2,3-diaza-anthracene | 4.84 g | ClC1=NN=C(C2=CC3=CC=CC=C3C=C12)Cl | C12H6Cl2N2
reactant | 1-amino-3-propanol | 48 ml | NCCCO | C3H9NO
product | 1,4-bis[N-(3-hydroxypropyl)amino]-2,3-diaza-anthracene | 6.09 g | OCCCNC1=NN=C(C2=CC3=CC=CC=C3C=C12)NCCCO | C18H22N4O2
